US04820705
(b) (2-p-Toluenesulphonamido-indan-5-yl)chloromethyl ketone
25.4 g (0.19 mol) of anhydrous aluminium chloride are suspended in 80 ml of ethylene chloride and 11.1 g (0.095 mol) of chloroacetyl chloride are added. 22.8 g (0.079 mol) of 2-p-toluenesulphonamido-indane are then added and the mixture is stirred for 2 hours at room temperature. The product is then decomposed by means of ice and hydrochloric acid and the reaction product is isolated from the organic phase and recrystallised from ethyl acetate/cyclohexane.

reactant | aluminium chloride | 0.19 mol, 25.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | chloroacetyl chloride | 0.095 mol, 11.1 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-p-toluenesulphonamido-indane | 0.079 mol, 22.8 g | C1(=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=CC=C2C1)C | C16H17NO2S
reactant | hydrochloric acid | Cl | ClH
reactant | ethylene chloride | 80 ml | C(CCl)Cl | C2H4Cl2
product | (2-p-Toluenesulphonamido-indan-5-yl)chloromethyl ketone | C1(=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(Cl)C(=O)C(C=1C=C2CC(CC2=CC1)NS(=O)(=O)C1=CC=C(C=C1)C)Cl)C | C35H34Cl2N2O5S2
